Created by TINA
*************************************
**  This file was created by TINA  **
**    (c) 1996 DesignSoft, Inc.    **
*************************************
.LIB "TSPICE.LIB" ; for the examples only
* Please use your own Spice libraries.
.TEMP 27
.AC DEC 10 100 100K
.TRAN 6U 3M
.DC LIN VU1_IN_ 0 1 50M

.PROBE V(1,0)

VU1_IN_       2   0  DC 0 AC 1 0 SIN( 0 500M 1K 0 0 0 )
V12           0   3  12
V12_2         4   0  12
R2            1   5  10K
R3            0   6  10K
R1            2   5  10K
C1            6   5  10N
C2            0   6  10N
XuA741         1   6   4   3   1  uA741 ; Opamp


.END
