Created by TINA
*************************************
**  This file was created by TINA  **
*************************************

VUin    1   0 SIN(0 1M 1K 0 0 0)
C11u     1   2 1.0U 
R4_73k  3   2 4.73K
R270    2   0 270.0
R2k     3   4 2.0K
QBC107A 4   2   0  QBC107A
R10k    5   0 10.0K
V12V    3   0 12.0
C21u     4   5 1.0U
.TRAN 50U 3M
.AC DEC 10 100 100MEG
.PLOT TRAN V(5)
*.PLOT AC V(5)
.MODEL QBC107A NPN (BF=180 BR = 1 IS =
+  7.677e-14 RB=10 RC=0 CJC=6.019e-12 VJC=0.75
+ MJC=0.33 TR=1.0e-8 CJE=1.065e-11 VJE=0.75 MJE=0.33 TF=5.102e-10 EG=1.11
+ VAF=100 XTB=2e-3 KF=0 AF=1.0)
.END
