Created by TINA

* RLC_1 EXAMPLE from TINA

.FUNC AB(x,y) x-y
*.OPTIONS ABSTOL = 10pA
.PARAM RR = 54
.PARAM RESI = { SQRT( 10000 ) 
+ / 2 + AB(RR,AB(5,1)) }
.PLOT TRAN V( C) 
*.PLOT AC VDB( 3, 0 ) 
.TRAN 50ns 20u 
.AC DEC 30 10kHz 1MEGHz
.DC LIN VSource 2V 5V 0.05V

VSource   1   0  PULSE( 0 1 0 0 0 30U 50U ) 
*VSource   1   0  EXP(0 1 0 2U 10U 5U)	
R         1   2  { 2* RESI / 2 }
L         2   3 1M
C         3   0 1N
.end