Created by TINA
*************************************
**  This file was created by TINA  **
**    (c) 1996 DesignSoft, Inc.    **
*************************************

X1 0 MACRO1
X2 0 MACRO2
.TRAN 3U 3M
.PROBE V(X2.PWR)

.SUBCKT MACRO1 AGND OPTIONAL: PWR=$G_PWR
V1 PWR AGND SIN(0, 1, 1K)
.ENDS

.SUBCKT MACRO2 AGND OPTIONAL: PWR=$G_PWR
R1 PWR AGND 1K
.ENDS

.END



